US05219555
b) Synthesis of methyl 12,12-dicyanododecanoate
100 ml of anhydrous tetrahydrofuran are introduced into a three-neck flask with stirrer, reflux condenser and dropping funnel, and 11.22 g (0.10 mol) of potassium tert.butylate are suspended with stirring. 6.61 g (0.10 mol) of 1,1-dicyanomethane dissolved in 20 ml of anhydrous tetrahydrofuran are added dropwise to this, while cooling in ice so that the temperature does not rise above 10° C. Subsequently, 28.0 g (0.10 mol) of methyl 11-bromoundecanoate are added, and the mixture is refluxed for 15 h. After cooling, the precipitated potassium bromide is filtered off, the filtrate is evaporated to dryness in a rotary evaporator, the residue is taken up in 100 ml of diethyl ether, and the solution is washed three times with 50 ml of water each time. The ethereal phase is dried over sodium sulfate and evaporated to dryness in a rotary evaporator, and the resulting crude product is distilled in a short-path distillation apparatus (boiling point 150 to 160° C./0.6 mbar).

reactant | 1,1-dicyanomethane | 0.10 mol, 6.61 g | C(#N)CC#N | C3H2N2
reactant | methyl 11-bromoundecanoate | 0.10 mol, 28.0 g | BrCCCCCCCCCCC(=O)OC | C12H23BrO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | methyl 12,12-dicyanododecanoate | C(#N)C(CCCCCCCCCCC(=O)OC)C#N | C15H24N2O2
